US06353025B1
To a stirred solution of 2,5-dimethylaniline (5.30 g) and 4-dimethylaminopyridine (6.41 g) in dichloromethane (90 ml) was added acetic anhydride (4.13 ml) under ice-cooling, and the mixture was stirred for 4 hours. The reaction mixture was washed with 1N hydrochloric acid and a saturated aqueous sodium bicarbonate solution subsequently, and dried over anhydrous magnesium sulfate. Removal of the solvent in vacuo gave 2′,5′-dimethylacetanilide (6.09 g).

reactant | 2,5-dimethylaniline | 5.30 g | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | acetic anhydride | 4.13 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 6.41 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 2′,5′-dimethylacetanilide | 6.09 g | CC1=C(NC(C)=O)C=C(C=C1)C | C10H13NO
